US05462952
5-[[2-[(2,6-Dichlorophenyl)amino]phenyl]methyl]-1,3,4-oxadiazol-2(3H)-thion
Potassium hydroxide (363.0 mg, 5.50 mmol) is added to a 0° C. suspension of 2-[(2,6-dichlorophenyl)amino]benzeneacetic acid, hydrazide (1.556 g, 5.01 mmol) and carbon disulfide (700 μl, 11.87 mmol) in 30 ml of methanol. The mixture is heated at reflux overnight under an atmosphere of nitrogen. The solution is concentrated in vacuo and the residue dissolved in water. The resulting aqueous solution is acidified with 1N hydrochloric acid and the resulting solids extracted into a 1:1 mixture of ether and ethyl acetate. The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is chromatographed, eluting with hexane:ethyl acetate (1:1), providing a white solid. Drying in vacuo at 65° C. for five days gives 1.22 g (65%) of product, mp 168°-170° C.

reactant | Potassium hydroxide | 5.50 mmol, 363.0 mg | [OH-].[K+]
reactant | 2-[(2,6-dichlorophenyl)amino]benzeneacetic acid, hydrazide | 5.01 mmol, 1.556 g | ClC1=C(C(=CC=C1)Cl)NC1=C(C=CC=C1)CC(=O)NN | C14H13Cl2N3O
reactant | carbon disulfide | 11.87 mmol, 700 μl | C(=S)=S | CS2
solvent | methanol | 30 ml | CO | CH4O
product | 5-[[2-[(2,6-Dichlorophenyl)amino]phenyl]methyl]-1,3,4-oxadiazol-2(3H)-thion | 1.22 g, 65% | ClC1=C(C(=CC=C1)Cl)NC1=C(C=CC=C1)CC1=NNC(O1)=S | C15H11Cl2N3OS
